US04272437
Paraazidomethylbenzoyl chloride
To a solution of p-azidomethylbenzoic acid (1.063 g, 6.00 mmol) in CH2Cl2 (60 ml) at room temperature were added dropwise thionyl chloride (1 ml, excess) and DMF (5drops). The mixture was stirred at room temperature for 2.5 h and evaporated, yielding 1.13 g of title compound as a light yellow oil: 1Hmr (CDCl3) δ: 4.48 (2H, s, --CH2N3), 7.38-7.52-8.07-8.22 ppm (4H, A2 'B2 ', aromatic Hs); ir (neat) νmax : 2090(--N3) and 1750 cm-1 (br. --COCl). This material was used in the next step without further purification.

reactant | p-azidomethylbenzoic acid | 6.00 mmol, 1.063 g | N(=[N+]=[N-])CC1=CC=C(C(=O)O)C=C1 | C8H7N3O2
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 5drops | CN(C)C=O | C3H7NO
product | Paraazidomethylbenzoyl chloride | 1.13 g | N(=[N+]=[N-])CC1=CC=C(C(=O)Cl)C=C1 | C8H6ClN3O
